US06683096B2
Preparation of 2-{2-[4-(1-allyl-1H-indol-3-yl)-piperidin-1-yl]-ethoxy}-benzoic acid
This compound was prepared following the procedure described in Example 138 (part B) starting with 2.8 g (7.4 mmol) of methyl 2-{2-[4-(1H-indol-3-yl)-piperidin-1-yl]-ethoxy}-benzoate, 0.38 g (9.6 mmol) of NaH in 60% of mineral oil and 0.77 mL (8.9 mmol) of allyl bromide. The crude mixture was hydrolised following the procedure described in Example 138 (part C) and purified by chromatography over silica gel affording 0.62 g (23% of yield) of the desired product.

reactant | methyl 2-{2-[4-(1H-indol-3-yl)-piperidin-1-yl]-ethoxy}-benzoate | 7.4 mmol, 2.8 g | N1C=C(C2=CC=CC=C12)C1CCN(CC1)CCOC1=C(C(=O)OC)C=CC=C1 | C23H26N2O3
reactant | NaH | 9.6 mmol, 0.38 g | [H-].[Na+]
reactant | allyl bromide | 8.9 mmol, 0.77 mL | C(C=C)Br | C3H5Br
product | 2-{2-[4-(1-allyl-1H-indol-3-yl)-piperidin-1-yl]-ethoxy}-benzoic acid | C(C=C)N1C=C(C2=CC=CC=C12)C1CCN(CC1)CCOC1=C(C(=O)O)C=CC=C1 | C25H28N2O3
